US08809267B2
To a solution of sodium hydride (60 wt %, 177 mg, 7.7 mmol) in THF (3 mL) was added trifluoroethanol and 8-chloro-2-ethanesulfonyl-4-(4-methoxy-benzyloxy)-quinoline (300 mg, 0.77 mmol). The reaction was stirred at room temperature for 1 h, quenched with H2O, then diluted with EtOAc and washed with brine. The resulting organic layer was dried over sodium sulfate and concentrated to provide crude 8-Chloro-4-(4-methoxy-benzyloxy)-2-(2,2,2-trifluoro-ethoxy)-quinoline. LCMS found 397.9 [M+H]+. The crude quinoline was then dissolved in CH2Cl2 (4 mL) and trifluoroacetic acid (4 mL). After stirring for 15 min the reaction was concentrated. The crude product was purified by column chromatography (10→30% EtOAc/hexanes) to provide 8-chloro-2-(2,2,2-trifluoro-ethoxy)-quinolin-4-ol (220 mg, 100% yield). LCMS found 278.3 [M+H]+.

reactant | sodium hydride | 7.7 mmol, 177 mg | [H-].[Na+]
reactant | trifluoroethanol | C(C(F)(F)F)O | C2H3F3O
reactant | 8-chloro-2-ethanesulfonyl-4-(4-methoxy-benzyloxy)-quinoline | 0.77 mmol, 300 mg | ClC=1C=CC=C2C(=CC(=NC12)S(=O)(=O)CC)OCC1=CC=C(C=C1)OC | C19H18ClNO4S
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 8-chloro-2-(2,2,2-trifluoro-ethoxy)-quinolin-4-ol | 220 mg, 100% yield | ClC=1C=CC=C2C(=CC(=NC12)OCC(F)(F)F)O | C11H7ClF3NO2
